US05486609
32.1 g (0.25 mol) of o-chlorophenol were slowly added dropwise under nitrogen to a mixture of 20.5 g (0.5 mol) of 95% by weight pure crystalline sodium amide and 750 ml of diethylamine. The reaction mixture was refluxed under nitrogen for 72 h with stirring. The workup comprised hydrolysis with 100 ml of saturated aqueous ammonium chloride solution, distillative removal of excess diethylamine, neutralization with dilute hydrochloric acid up to a pH of 7.5, extraction of the residue with a total of 600 ml of methylene chloride, drying over sodium sulfate and concentrating of the organic phase. Thereafter the crude oil thus obtained (46.3 g) was distilled, which yielded 31.5 g (76%) of 3-diethylaminophenol (purity>96% (GC)).

reactant | o-chlorophenol | 0.25 mol, 32.1 g | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | sodium amide | [NH2-].[Na+]
reactant | diethylamine | 750 ml | C(C)NCC | C4H11N
product | 3-diethylaminophenol | 31.5 g, 76% | C(C)N(C=1C=C(C=CC1)O)CC | C10H15NO
